US07951956B2
3,5-Dimethyl-4-ethoxycarbonylfuran-2-carboxylic acid (starting material for compound according to Example 2)
2,4-Dimethyl-5-formylfuran-3-carboxylic acid ethyl ester (1.78 g, 9.1 mmol) reported in the references was dissolved in a mixture of acetic acid (32 ml) and water (8 ml). Amidosulfuric acid (1.19 g, 12.2 mmol) was added to the solution, and cooled to 0° C. in an ice bath. Sodium chlorite was added and stirred for 2 hours, and after addition of water to reaction mixture, precipitate was collected by filtration, thereby giving 3,5-dimethyl-4-ethoxycarbonylfuran-2-carboxylic acid (1.01 g, 52%) as a white solid.

reactant | 2,4-Dimethyl-5-formylfuran-3-carboxylic acid ethyl ester | 9.1 mmol, 1.78 g | C(C)OC(=O)C1=C(OC(=C1C)C=O)C | C10H12O4
reactant | Amidosulfuric acid | 12.2 mmol, 1.19 g | S(O)(=O)(=O)N | H3NO3S
reactant | Sodium chlorite | Cl(=O)[O-].[Na+]
solvent | acetic acid | 32 ml | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
product | 3,5-Dimethyl-4-ethoxycarbonylfuran-2-carboxylic acid | CC1=C(OC(=C1C(=O)OCC)C)C(=O)O | C10H12O5
